US06949648B2
4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
A solution of 2-[[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid (50.2 g, 0.17 mol) in phosphorous oxychloride (120 mL, 1.27 mol) was heated under reflux for 1 hour. After the solution was cooled to room temperature, the solvent was evaporated under reduced pressure and the residue was poured into iced water. The solution was made basic by the addition of a sodium hydroxide solution, and organic matter was extracted with chloroform. The extract was washed with saturated brine and water, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Purification of the residue thus obtained by silica gel column chromatography (chloroform:methanol=98:2) gave the title compound (21.5 g, 43% yield).

reactant | 2-[[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 0.17 mol, 50.2 g | CC1=NN(C(=C1)NC1=C(C(=O)O)C=CC=C1)C1=NC=CC=C1 | C16H14N4O2
reactant | phosphorous oxychloride | 1.27 mol, 120 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 21.5 g, 43% yield | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
